US08877782B2
(6,7-Dihydro-5H-pyrazolo[1,5-a]pyrimidin-4-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using 4,5,6,7-tetrahydropyrazolo(1,5-a)-pyrimidine hydrochloride instead of methylamine, to the title compound (41 mg, 31%) which was obtained as a light yellow solid after crystallisation from ethyl acetate:hexane. MS: m/e=416.4 [M+H]′.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 4,5,6,7-tetrahydropyrazolo(1,5-a)-pyrimidine hydrochloride | Cl.N1=CC=C2N1CCCN2
product | (6,7-Dihydro-5H-pyrazolo[1,5-a]pyrimidin-4-yl)-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-methanone | 41 mg, 31% | N1=CC=C2N1CCCN2C(=O)C=2C=NC(=CC2)OCC=2C(=NOC2C)C2=CC=CC=C2 | C23H21N5O3
